* SKY130A four-transistor OTA pre-layout verification.
.lib '{{model_library}}' tt

VDD VDD 0 DC={{vdd_dc}}
VINP VINP 0 DC={{vin_dc}} AC=1
VINN VINN 0 DC={{vin_dc}} AC=0
ITAIL IBIAS 0 DC={{tail_current}}

VOUT_BIAS VOUT_BIAS 0 DC={{vout_dc}} AC=0
LBIAS VOUT_BIAS VOUT {{output_bias_inductance}}

XDP1 VOUT VINP IBIAS IBIAS sky130_fd_pr__nfet_01v8 l={{dp_length}} w={{dp_width}} nf={{dp_nf}}
XDP2 N1 VINN IBIAS IBIAS sky130_fd_pr__nfet_01v8 l={{dp_length}} w={{dp_width}} nf={{dp_nf}}
XCM1 VOUT N1 VDD VDD sky130_fd_pr__pfet_01v8 l={{cm_length}} w={{cm_width}} nf={{cm_nf}}
XCM2 N1 N1 VDD VDD sky130_fd_pr__pfet_01v8 l={{cm_length}} w={{cm_width}} nf={{cm_nf}}

.options temp={{temperature_c}} tnom={{temperature_c}}
.control
op
print v(VOUT) v(IBIAS) v(N1)

ac dec {{ac_points_per_decade}} {{ac_min_hz}} {{ac_max_hz}}
let loop_response = -v(VOUT)
let gain_db = vdb(loop_response)
let phase_deg = 180 / pi * cph(loop_response)
meas ac dc_gain_db find gain_db at={{ac_min_hz}}
let gain_3db = dc_gain_db - 3
meas ac bandwidth_3db_hz when gain_db=gain_3db fall=1
meas ac unity_gain_hz when gain_db=0 fall=1
meas ac phase_at_unity find phase_deg at=unity_gain_hz
let phase_margin_deg = 180 + phase_at_unity

option numdgt=15
set wr_vecnames
set wr_singlescale
compose result_index values 0
setscale result_index
wrdata {{results_path}} dc_gain_db bandwidth_3db_hz unity_gain_hz phase_margin_deg
.endc
.end
